US04579845
1-[1-(2,3-dihydro[4H]1,4-benzodioxin-2 yl)2-hydroxy ethyl]4-aminomethyl piperidine
A suspension of 30 g lithium aluminohydride in 1000 ml tetrahydrofuran is prepared under stirring and at room temperature. To this suspension 66 g of previously ground 1-[1-(2,3-dihydro[4H]1,4-benzodioxin-2 yl)2-hydroxy ethyl]piperidine 4-carboxamide are added portionwise.

reactant | lithium aluminohydride | 30 g | [AlH4-].[Li+]
reactant | 1-[1-(2,3-dihydro[4H]1,4-benzodioxin-2 yl)2-hydroxy ethyl]piperidine 4-carboxamide | O1C(COC2=C1C=CC=C2)C(CO)N2CCC(CC2)C(=O)N | C16H22N2O4
solvent | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
product | 1-[1-(2,3-dihydro[4H]1,4-benzodioxin-2 yl)2-hydroxy ethyl]4-aminomethyl piperidine | O1C(COC2=C1C=CC=C2)C(CO)N2CCC(CC2)CN | C16H24N2O3
